US08030334B2
A microwave reactor is charged with 1-methyl-indole-2-boronic acid (1.18 g, 6.78 mmol), (3-bromo-pyridin-4-yl)-methanol (0.850 g, 4.52 mmol), potassium phosphate (1.91 g, 9.04 mmol) and DMF (10 mL). The reactor is evacuated and filled with nitrogen thrice and Pd(PPh3)4 (0.261 g, 0.226 mmol) is added. The reactor is evacuated and filled with nitrogen thrice again. The mixture is heated to 120° C. for 1 h under microwave irradiation, then diluted with ethyl acetate and washed with water thrice. The organic layer is dried over sodium sulfate and concentrated in vacuo to give a residue which is purified by silica gel flash chromatography (dichloromethane-methanol, 19:1) to afford [3-(1-methyl-1H-indol-2-yl)-pyridin-4-yl]-methanol as a white solid. 1H NMR (400 MHz, MeOD) δ ppm 3.58 (s, 3H), 4.57 (s, 2H), 6.54 (s, 1H), 7.14 (t, J=7.5 Hz, 1H), 7.27 (ddd, J=7.6, 1.1 Hz, 1H), 7.46 (d, J=8.3 Hz, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.81 (d, J=5.1 Hz, 1H), 8.49 (s, 1H), 8.67 (d, J=5.1 Hz, 1H). HRMS (ESI) m/z 239.1177 [(M+H)+Calcd for C15H15N2O: 239.1184].

reactant | 1-methyl-indole-2-boronic acid | 6.78 mmol, 1.18 g | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
reactant | (3-bromo-pyridin-4-yl)-methanol | 4.52 mmol, 0.850 g | BrC=1C=NC=CC1CO | C6H6BrNO
reactant | potassium phosphate | 9.04 mmol, 1.91 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.226 mmol, 0.261 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [3-(1-methyl-1H-indol-2-yl)-pyridin-4-yl]-methanol | CN1C(=CC2=CC=CC=C12)C=1C=NC=CC1CO | C15H14N2O
